US09447106B2
Compound 56: 7-(2-Cyanoacetyl)-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide
The desired compound was prepared from 2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide and 2-cyanoacetic acid according to the procedure similar to that for compound 54. 1H NMR (400 MHz, DMSO-d6 at 80° C.) δ 11.55 (s, 1H), 7.68 (d, J=8.6 Hz, 2H), 7.41 (d, J=7.6 Hz, 1H), 7.39 (d, J=7.6 Hz, 1H), 7.16 (t, J=7.6 Hz, 1H), 7.11-6.93 (m, 4H), 6.22 (br s, 2H), 4.68 (s, 2H), 4.14 (s, 2H), 3.86-3.79 (m, 2H), 2.84-2.73 (m, 2H). MS (ESI) m/e [M+1]+ 440.9.

reactant | 2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=NN2C(NC3=C2CNCC3)=C1C(=O)N | C21H19N5O2
reactant | 2-cyanoacetic acid | C(#N)CC(=O)O | C3H3NO2
product | 7-(2-Cyanoacetyl)-2-(4-phenoxyphenyl)-5,6,7,8-tetrahydro-4H-pyrazolo[5′,1′:2,3]imidazo[4,5-c]pyridine-3-carboxamide | C(#N)CC(=O)N1CC2=C(CC1)NC=1N2N=C(C1C(=O)N)C1=CC=C(C=C1)OC1=CC=CC=C1 | C24H20N6O3
